US08536165B2
2-(6-bromo-5-methylpyridin-3-ylamino)-5-chlorobenzoic acid
Obtained (0.51 g, yield 24%) following the procedure described in Intermediate 13 starting with 6-bromo-5-methylpyridin-3-amine (5.35 mmol, 1.0 g) and 2,5-dichlorobenzoic acid (10.68 mmol, 2.04 g).

reactant | 6-bromo-5-methylpyridin-3-amine | 5.35 mmol, 1.0 g | BrC1=C(C=C(C=N1)N)C | C6H7BrN2
reactant | 2,5-dichlorobenzoic acid | 10.68 mmol, 2.04 g | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
product | 2-(6-bromo-5-methylpyridin-3-ylamino)-5-chlorobenzoic acid | yield 24% | BrC1=C(C=C(C=N1)NC1=C(C(=O)O)C=C(C=C1)Cl)C | C13H10BrClN2O2
